US06054448
vii) Ethyl 2-(9-xanthyl)-3-oxo-3-[3-(phenacylmethyloxycarbonyl)cyclobutyl]propanate
Acetic acid (20 ml) was added to a stirred suspension of 9-hydroxyxanthene (3.96 g, 20 mmol) and ethyl 3-oxo-3-[3-(phenacylmethyloxycarbonyl) cyclobutyl]propanate (6.0 g, 18 mmol) in ethanol (20 ml) at room temperature. A clear solution formed and was allowed to stand for 7 days at room temperature.

reactant | Acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | 9-hydroxyxanthene | 20 mmol, 3.96 g | OC1C2=CC=CC=C2OC=2C=CC=CC12 | C13H10O2
reactant | ethyl 3-oxo-3-[3-(phenacylmethyloxycarbonyl) cyclobutyl]propanate | 18 mmol, 6.0 g | O=C(CC(=O)OCC)C1CC(C1)C(=O)OCCC(=O)C1=CC=CC=C1 | C19H22O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2-(9-xanthyl)-3-oxo-3-[3-(phenacylmethyloxycarbonyl)cyclobutyl]propanate | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(C(=O)OCC)C(C1CC(C1)C(=O)OCCC(=O)C1=CC=CC=C1)=O | C32H30O7
